 
* Author: FOSSEE
* Date:

v1  net-_r2-pad2_ gnd sine(0 10 50 0 0)
r1  out gnd 1k
r2  in net-_r2-pad2_ 1k
* u1  in gnd gnd out transfo
* u2  in plot_v1
* u3  out plot_v1
a1 (in gnd) (interNode_1 gnd) u1_primary
a2 (out gnd) (interNode_2 gnd) u1_secondary
a3 (interNode_1 interNode_2) u1_iron_core
*primary lcouple
.model u1_primary lcouple (num_turns= 310)
*iron core
.model u1_iron_core core (H_array = [-1000 -500 -375 -250 -188 -125 -63 0 63 125 188 250 375 500 1000] B_array = [-3.13e-3 -2.63e-3 -2.33e-3 -1.93e-3 -1.5e-3 -6.25e-4 -2.5e-4 0 2.5e-4 6.25e-4 1.5e-3 1.93e-3 2.33e-3 2.63e-3 3.13e-3] area = 1 length =0.01)
*secondary lcouple
.model u1_secondary lcouple (num_turns =620)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
      			